US04012377
Cinnamamidoxime (6.5 g.) (H. Wolff, Ber., 1886, 19, 1507) was refluxed in triethylorthoformate (60 ml.) containing two drops of boron trifluoride etherate. Thin layer chromatography showed that receiving was complete after 1 hr. and the reaction mixture was evaporated in dryness in vacuo. The residue was dissolved in chloroform (100 ml.) and washed consecutively with 2N-hydrochloric acid (100 ml.), saturated sodium bicarbonate solution (100 ml.) and water (100 ml.). The chloroform solution was evaporated to dryness in vacuo and the resultant yellow crystals were recrystallised from aqueous methanol to yield needle-like crystals of 3-(β-trans-styryl)-1,2,4-oxadiazole 5.82 g. (84%), m.p. 82°, λmax (EtOH) 275 nm., ε23200, τ(CDCl3) 1.33 (1H), 2.56 (aromatic multiplet), 2.24 (doublet, J=16 c./sec.), 2.88 (doublet, J=16 c./sec.) (Found: C, 69.9; H, 4.7; N, 15.9. C10H8N2O requires C, 69.75; H, 4.7; N, 16.3%).

reactant | Cinnamamidoxime | 6.5 g | C(C=CC1=CC=CC=C1)(N)=NO | C9H10N2O
reactant | triethylorthoformate | 60 ml | C(C)OC(OCC)OCC | C7H16O3
catalyst | boron trifluoride etherate | two drops | B(F)(F)F.CCOCC
product | 3-(β-trans-styryl)-1,2,4-oxadiazole | 5.82 g | C(=C\C1=CC=CC=C1)/C1=NOC=N1 | C10H8N2O
